US05143643
Separately, 9.0 g of 3-pentyloxybutanol and 6.82 g of N,N-dimethylaniline were added to 20 ml of ether, and under stirring at room temperature, 11.5 g p-acetyloxybenzoic acid chloride was added thereto dropwise. Then, the mixture was heat-refluxed for 3.5 hours. The crystal was dissolved by adding 50 ml of water and extracted with ether. The ether layer was washed successively with 10% H2SO4 aqueous solution and water and dried with anhydrous Na2SO4, followed by distilling-off of the solvent to obtain 17.5 g of 4-(3-pentyloxybutoxycarbonyl)phenyl acetate.

reactant | 3-pentyloxybutanol | 9.0 g | C(CCCC)OC(CCO)C | C9H20O2
reactant | N,N-dimethylaniline | 6.82 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | ether | 20 ml | CCOCC | C4H10O
reactant | p-acetyloxybenzoic acid chloride | 11.5 g | C(C)(=O)OC1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
solvent | water | 50 ml | O | H2O
product | 4-(3-pentyloxybutoxycarbonyl)phenyl acetate | 17.5 g | C(C)(=O)OC1=CC=C(C=C1)C(=O)OCCC(C)OCCCCC | C18H26O5
